Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Mustard / Levaquin / Ceftriaxone / cefepime
 
Attending: ___.
 
Chief Complaint:
Neck pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ w/ MM (dx ___, not eligible for auto-HSCT) 
most
recently on Pomalidomide/Carfilzomib/Dex therapy and chronic
obstructive asthma, osteoporosis on monthly zoledronic acid,
recurrent pneumonias on monthly IVIG, severe persistent asthma,
and COPD with eosinophilia (s/p treatment with mepolizumab) on
home O2 2L who presents with subacute neck pain.

Patient presented to outpatient clinic ___ for routine
administration of zoledronic acid and IVIG.  She was noted to be
complaining of over one week of neck pain, no radiating
discomfort though she has been having some difficulty turning 
her
head from side to side.  She has continued on fentanyl patch 75
mcg.  As for her respiratory status, patient notes some 
worsening
over the past several months, no acute change.  No exacerbation
of chronic cough, no fevers/chills.  Given concern for new 
spinal
myelomatous disease and need for urgent neck imaging/pain
control, decision was made to admit patient for expedited
work-up. 

Of note, patient was last admitted to ___ ___
after presenting with chest pain, subsequently found to have a
sternal fracture.  Patient was managed with pain meds and ___
prior to discharge to rehab.  

Patient was last seen in ___ clinic ___, stable on
daratumumab and pomalidomide.  Last M protein at that time ~770. 

Other chronic issues (COPD and pain) stable and under control.

Upon arrival to the floor, pt was reluctant to provide much
history, stating "I hope I leave tomorrow." She declined any 
pain
meds for the neck pain, hoping to stick w/ apap and fentanyl
patch, "because those strong pain meds can do bad things to 
you."
She admits to dyspnea and requesting her inhaler but states her
breathing is unchanged from baseline. denied chest pain but
admits to ___. she says they're "always swollen" and told me
"stop asking me if it's better or worse than usual." 

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
-___: began developing pain in distal medial right leg. 
Did not go away as would with typical MSK pain from dancing. 
-___: Xray which showed a 2.3 cm R tibial lesion 
-___: CT guided bone biopsy significant for plasmacytoma. 
After this diagnosis she was seen by Dr. ___ and 
referred to ___. 
-___: Bone marrow biopsy with 30% monoclonal plasma cells 
-___ - ___: Radiation 35 Gy in 14 fractions to right 
distal tibia. 
-___: Dexamethasone 20mg with rapid taper over 7 
days. 
-On DF/___ ___ Elotuzumab + 4 cycles of Revlimid and 
Decadron. 
-___ Revlimid/Dex therapy. Revlimid discontinued on ___ 
and Dexamethasone discontinued on ___. 
-___: started therapy on clinical trial Protocol ___: A 
Phase 3, Multicenter, Randomized, Open-label Study to Compare 
the Efficacy and Safety of Pomalidomide (POM), Bortezomib (BTZ) 
and Low-Dose Dexamethasone (LD-DEX) versus Bortezomib and 
Low-Dose Dexamethasone in Subjects with Relapsed or Refractory 
Multiple Myeloma (MM). 
-patient was randomized to the Velcade/Dex arm 
-___: Cycle 1 Velcade/Dex 
-___: Cycle 2 Velcade/Dex 
-currently on carfilzomib 
-Started ninlaro and dexamethasone on ___.  
-___: Initiated Pom + ___ (cycle 1 50% dose reduction)\
-___: Daratumumab (full dose) Plus Pomalyst 2mg daily ___
days
___- Present: Increase Pomalyst to 3mg,continue Daratumumab 


PAST MEDICAL HISTORY: 
-asthma - dx'ed ___ 
-COPD - dx'ed in ___, no smoking hx, thought to be due to 
second hand smoke as husband was smoker, eosinophilia 
-GERD - ___ 
-HLD - ___, not on treatment 
-anemia - dx'ed ___, resolved ___ 
-right rotator cuff tear -___ 
-chronic low back pain - ___ 
-s/p R meniscus repair - ___ 
-s/p L meniscus repair - ___ 
-Arthritis x ___ years 
 
Social History:
___
Family History:
M with DM, F with CAD
 
Physical Exam:
ADMISSION EXAM:
VITAL SIGNS: 97.8 PO 112 / 57 80 16 99% 2L
General:  NAD, Resting in bed comfortably eating soup 
comofrtably
without any difficulty 
HEENT:  MMM, no OP lesions 
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  course breath sounds b/l, no C/W/R, No respiratory
distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, 2+ b/l ___ w/ stasis dermatitis, she states is
chronic more or less unchanged 
SKIN: No discernable rashes on her upper ext
NEURO: CN III-XII intact, strength b/l ___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: PIV

DISCHARGE EXAM:
VS: see Eflowsheets, afebrile 
General:  NAD, Resting in bed comfortably eating soup 
comofrtably
without any difficulty 
HEENT:  MMM, no OP lesions 
NECK: no increased pain to axial load, able to touch chin to
chest
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  course breath sounds b/l with b/l wheeze, No respiratory
distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, 2+ b/l ___ w/ stasis dermatitis, she states is
chronic more or less unchanged 
SKIN: No discernable rashes on her upper ext
NEURO: CN III-XII intact, strength b/l ___ intact, sensation
intact to light touch
PSYCH: Thought process logical, linear, future oriented
ACCESS: PIV  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 05:50PM BLOOD WBC-3.2* RBC-2.05* Hgb-7.4* Hct-23.7* 
MCV-116* MCH-36.1* MCHC-31.2* RDW-16.2* RDWSD-68.5* Plt ___
___ 05:50PM BLOOD UreaN-23* Creat-1.0 Na-140 K-4.1 Cl-101 
HCO3-30 AnGap-9*
___ 05:50PM BLOOD ALT-12 AST-17 LD(LDH)-159 AlkPhos-62 
TotBili-0.2
___ 05:50PM BLOOD TotProt-6.3* Albumin-3.4* Globuln-2.9 
Calcium-9.0

Imaging:
========
___ MRI C Spine:
1.  In comparison with the prior MRI of the cervical spine dated
___, there are relatively stable and grossly
unchanged multilevel, multifactorial degenerative changes
throughout the cervical spine, including grade 1 anterolisthesis
at C3 upon C4 level.   
2.  No focal or diffuse lesions are visualized throughout the
cervical spinal cord.  
3.  There is no evidence of abnormal enhancement after contrast 
administration.  
4.  Degenerative changes at the craniocervical junction, with
pannus formation and cystic changes at the base of the odontoid
process remain also unchanged.

Discharge Labs:
===============
___ 03:30PM BLOOD WBC-2.5* RBC-1.97* Hgb-7.2* Hct-22.9* 
MCV-116* MCH-36.5* MCHC-31.4* RDW-16.1* RDWSD-68.7* Plt ___
___ 05:37AM BLOOD Glucose-98 UreaN-19 Creat-1.0 Na-143 
K-4.2 Cl-102 HCO3-30 AnGap-11
___ 05:37AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.___ year old female with multiple myeloma (dx ___, not eligible 
for auto-HSCT) most recently on Pomalidomide/Carfilzomib/Dex 
therapy and chronic obstructive asthma, osteoporosis on monthly 
zoledronic acid, recurrent pneumonias on monthly IVIG, severe 
persistent asthma, and COPD with eosinophilia (s/p treatment 
with mepolizumab) on home O2 2L who presented with subacute neck 
pain with concern for new bony myelomatous involvement.

# Neck Pain: Reassuringly the neck pain was not associated with 
any radiculopathy and she was neurovascularly intact. She had no 
TTP on exam. She received acetaminophen for pain, as well as her 
home fentanyl patch. MRI cervical spine was obtained and was 
negative for any evidence of myeloma involvement of the spine, 
but did reveal extensive degenerative changes overall stable 
from ___.

# Multiple myeloma: patient is on monthly IVIG. She was 
continued on her acylovir, Bactrim, as well as aspirin. 
Pomalidomide was non-formulary but was resumed at discharge. She 
received a dose of IVIG on ___. She has her next oncology 
appointment scheduled for ___.

# COPD/Asthma
She is followed by Dr ___ her severe persistent asthma with 
fixed obstruction, chronic hypoxemic respiratory failure on 2L 
NC RTC, which seems to be largely quiescent at this time. She 
was continued on home inhalers, high dose ___ and LAMA, low 
dose azithromycin, prednisone.

# Lower extremity edema
She states this is chronic and is non-compliant with her Lasix.

TRANSITIONS OF CARE
-------------------
# Follow-up: oncology follow up scheduled ___

> 30 minutes spent on discharge coordination and planning

CODE STATUS: DNR, OK for intubation confirmed on admission

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN shortness of 
breath/wheezing 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing 
4. Ascorbic Acid ___ mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Azithromycin 250 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID:PRN constipation 
8. Fentanyl Patch 75 mcg/h TD Q72H 
9. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
10. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Shortness Of Breath 

11. LORazepam 0.5 mg PO QHS:PRN Insomnia 
12. Multivitamins 1 TAB PO DAILY 
13. Omeprazole 40 mg PO DAILY 
14. Ondansetron ODT 8 mg PO Q8H:PRN nausea/vomiting 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. PredniSONE 5 mg PO DAILY 
Tapered dose - DOWN 
17. Senna 8.6 mg PO BID:PRN constipation 
18. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Bisacodyl 10 mg PO/PR DAILY 
21. Dexamethasone 12 mg PO 1X/WEEK (FR) 
22. Pomalyst (pomalidomide) 2 mg oral DAILY 
23. Magnesium Oxide 400 mg PO DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN shortness of 
breath/wheezing  
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Azithromycin 250 mg PO DAILY  
7.  Bisacodyl 10 mg PO/PR DAILY  
8.  Dexamethasone 12 mg PO 1X/WEEK (FR)  
9.  Docusate Sodium 100 mg PO BID:PRN constipation  
10.  Fentanyl Patch 75 mcg/h TD Q72H  
11.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
12.  Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Shortness Of 
Breath  
13.  LORazepam 0.5 mg PO QHS:PRN Insomnia  
14.  Magnesium Oxide 400 mg PO DAILY  
15.  Multivitamins 1 TAB PO DAILY  
16.  Omeprazole 40 mg PO DAILY  
17.  Ondansetron ODT 8 mg PO Q8H:PRN nausea/vomiting  
18.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
19.  Pomalyst (pomalidomide) 2 mg oral DAILY  
20.  PredniSONE 5 mg PO DAILY 
Tapered dose - DOWN  
21.  Senna 8.6 mg PO BID:PRN constipation  
22.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
23.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Neck pain
Multiple myeloma

Secondary:
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with neck pain.  
Further testing with an MRI did not show any signs of multiple 
myeloma in your spine. You received a dose of IVIG while you 
were here. You are now being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___